US06982348B2
1) [6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methanol
To a solution of ethyl 6-(1,1,2,2-tetrafluoroethoxy)-pyridine-2-carboxylate (5.65 g, 21.2 mmol) in tetrahydrofuran (60 ml) was added Red-Al (registered trademark, 6.11 g, 21.2 mmol). The reaction solution was stirred at room temperature for 30 min. and acetone (2 ml) was added. Water (100 ml) was added to the reaction solution and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl-acetate=4:1) to give the objective substance (4.2 g, 88%).

reactant | ethyl 6-(1,1,2,2-tetrafluoroethoxy)-pyridine-2-carboxylate | 21.2 mmol, 5.65 g | FC(C(F)F)(OC1=CC=CC(=N1)C(=O)OCC)F | C10H9F4NO3
reactant | Red-Al | 21.2 mmol, 6.11 g | COCCO[AlH2-]OCCOC.[Na+]
reactant | acetone | 2 ml | CC(=O)C | C3H6O
reactant | Water | 100 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | [6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methanol | FC(C(F)F)(OC1=CC=CC(=N1)CO)F | C8H7F4NO2
